US06683096B2
Preparation of 3-{4-[1-(2-ethoxy-ethyl)-1H-indol-3-yl]-piperidin-1-yl}-propionic acid
To a solution of 0.5 g (1.84 mmol) of 4-[1-(2-ethoxy-ethyl)-indol-3-yl)-piperidine prepared as in Example 152 (part D) in 6 mL of ethyl alcohol, 0.240 g (2.4 mmol) of ethyl acrylate were added. The mixture was refluxed for 18 hours and the solvent was removed under reduced pressure. The residue was extracted between water and ethyl acetate. The crude product obtained after removing the solvent was dissolved with 3 mL of ethyl alcohol and 2 mL of a 2N aqueous sodium hydroxide solution were added. The mixture was stirred at room temperature for 18 hours and then neutralised with HCl 6N. After extraction with chloroform and removal of the solvent, 0.420 g (67%) of a yellow oil were isolated.

reactant | 4-[1-(2-ethoxy-ethyl)-indol-3-yl)-piperidine | 1.84 mmol, 0.5 g | C(C)OCCN1C=C(C2=CC=CC=C12)C1CCNCC1 | C17H24N2O
reactant | ethyl acrylate | 2.4 mmol, 0.240 g | C(C=C)(=O)OCC | C5H8O2
solvent | ethyl alcohol | 6 mL | C(C)O | C2H6O
product | 3-{4-[1-(2-ethoxy-ethyl)-1H-indol-3-yl]-piperidin-1-yl}-propionic acid | 0.420 g, 67% | C(C)OCCN1C=C(C2=CC=CC=C12)C1CCN(CC1)CCC(=O)O | C20H28N2O3
